Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamides) / Sulfasalazine
 
Attending: ___.
 
Chief Complaint:
ulcerative colitis
 
Major Surgical or Invasive Procedure:
ileostomy takedown and reanastomosis

 
History of Present Illness:
___ yo M with ulcerative colitis s/p total abdominal colectomy 
with end ileostomy and J-pouch revisit for ileostomy takedown. 
The patient with functioning ileostomy and an intact pouchogram. 
Has been afebrile and tolerating regular diet without 
complications. 

 
Past Medical History:
Ulcerative Colitis
 
Social History:
___
Family History:
Many family members with UC, Father had polyps and mother had 
breast CA
 
Physical Exam:
VSS
HEENT: NCAT, EOMi, MMM
Neck: supple, no lymphadenopathy
Chest: CTA BS
Cardio: RRR
Abd: ostomy to right lower quadrant, soft, nd, act bowel sounds
Ext: no c/c/e, palpable pulses bilaterally
 
Pertinent Results:
___ 07:05AM BLOOD Glucose-121* UreaN-18 Creat-1.1 Na-136 
K-4.6 Cl-100 HCO3-28 AnGap-13
___ 09:14AM BLOOD Na-138 K-4.1 Cl-104
___ 07:05AM BLOOD Calcium-9.8 Phos-3.6 Mg-2.1
.
Pathology Examination 
Procedure date    ___
DIAGNOSIS: 
Ileum, ileostomy closure:
Segment of ileum with stoma.
Clinical:  Ulcerative colitis. 

 
Brief Hospital Course:
Patient was taken to the OR by Dr. ___ on ___ for 
ileostomy takedown and reanastomosis. There were no 
complications to the procedure. After extubation, he was take to 
the PACU for monitoring and then to the surgical floors for 
postoperative recovery. Patient was kept NPO to await for bowel 
function. Pain was well controlled by PCA. He was started on 
sips POD1. He regained bowel function POD2, passing flatus and 
bowel movements. Diet advanced to regular food as patient 
tolerated without difficulty. His medications were all converted 
to oral form. Dressing from incision removed and wound appeared 
clean, dry, intact with staples (to be DC in next clinic visit). 
Patient discharged home POD3. Bowel regimen reviewed with 
patient.   
 
Medications on Admission:
famotidine 20", loperamide 2", zolpidem prn

 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) as needed.  
2. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
3. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
4. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Ulcerative Colitis

 
Discharge Condition:
Stable
tolerating regular diet
Pain well controlled with oral medication
ambulating independently
 
Discharge Instructions:
General:
.
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. 
* Signs of dehydration include dry mouth, rapid heartbeat or 
feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
* Staples will be removed on next postoperative visit to clinic
* Keep area dry, pat dry if wet, use gauze for comfort
.
Management of diarrhea:
-Take metamucil wafer or citracel, and imodium as instructed per 
Dr. ___.
 
Followup Instructions:
___